US04107438
4(Para-fluorophenylsulphinyl)-butyramidine hydrochloride
15 g (0.06 mol) of 4-(p-fluorophenylthio)-butyramidine hydrochloride dissolved in 50 ml of acetic acid are oxidised with 5.6 ml of hydrogen peroxide of 120 volumes strength in 1 hour at 50° C.The mixture is left to stand overnight and is then evaporated in vacuo and the residue is taken up in acetone, filtered off and recrystallised from isopropanol. CRL 40,267 is obtained in a yield of 76%; it is in the form of small white crystals. Melting point = 138° C.

reactant | 4-(p-fluorophenylthio)-butyramidine hydrochloride | 0.06 mol, 15 g | Cl.FC1=CC=C(C=C1)SCCCC(=N)N
reactant | hydrogen peroxide | 5.6 ml | OO | H2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 4(Para-fluorophenylsulphinyl)-butyramidine hydrochloride | yield of 76% | Cl.FC1=CC=C(C=C1)S(=O)CCCC(=N)N | InChI=1S/C10H13FN2OS.ClH/c11-8-3-5-9(6-4-8)15(14)7-1-2-10(12)13;/h3-6H,1-2,7H2,(H3,12,13);1H
